US08283353B2
4′-{[4-(3-methylidene-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.50 g), 2-methylidenepropane-1,3-diol (0.18 g), 4-methylbenzenesulfonic acid (0.020 g) and toluene (20 mL) was heated with a Dean-Stark apparatus under reflux for 21 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.36 g, 64%).

reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.50 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | 2-methylidenepropane-1,3-diol | 0.18 g | C=C(CO)CO | C4H8O2
reactant | 4-methylbenzenesulfonic acid | 0.020 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-{[4-(3-methylidene-1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.36 g, 64% | C=C1COC2(OC1)CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C32H33N5O3
